US09079866B2
N-tert-Butyl-3′-fluoro-4′-(7H-pyrrolo[2,3-d]pyrimidin-2-yl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide and 2-bromo-7H-pyrrolo[2,3-d]pyrimidine. MS (ESI): mass calcd. for C22H21FN4O2S, 424.14; m/z found, 425.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 9.31 (s, 1H), 8.82 (s, 1H), 8.15 (m, 1H), 7.90 (d, J=3.6, 1H), 7.68 (d, J=7.5, 1H), 7.63 (d, J=6.3, 1H), 7.50 (s, 1H), 7.42 (d, J=7.1, 1H), 7.02 (d, J=3.6, 1H), 6.66 (d, J=3.6, 1H), 1.12 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 2-bromo-7H-pyrrolo[2,3-d]pyrimidine | BrC=1N=CC2=C(N1)NC=C2 | C6H4BrN3
product | N-tert-Butyl-3′-fluoro-4′-(7H-pyrrolo[2,3-d]pyrimidin-2-yl)biphenyl-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1N=CC2=C(N1)NC=C2)F | C22H21FN4O2S
